US04165365
A mixture of 0.915 g (3.3 mmole) of N-(3-amino-5-nitrophenyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamide in 20 ml of 50% acetic acid was heated on a steam bath for 1 hour then stored over a weekend. The solvents were removed in high vacuum to afford the product, N-(2,3-dihydroxypropionyl)-3-amino-5-nitroaniline, as an oil which was used without further purification.

reactant | N-(3-amino-5-nitrophenyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamide | 3.3 mmole, 0.915 g | NC=1C=C(C=C(C1)[N+](=O)[O-])NC(=O)C1OC(OC1)(C)C | C12H15N3O5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-(2,3-dihydroxypropionyl)-3-amino-5-nitroaniline | OC(C(=O)NC1=CC(=CC(=C1)[N+](=O)[O-])N)CO | C9H11N3O5
